US09126969B2
35 g of 4-fluoro-5-morpholin-4-yl-2-nitrophenylamine in solution in 618 mL of methanol are hydrogenated under 1 bar of hydrogen pressure in the presence of 3.4 g of palladium-on-charcoal at 22° C. for 16 hours. The reaction crude is filtered through celite and the filtrate is concentrated under vacuum in a rotary evaporator. 30 g of 4-fluoro-5-morpholin-4-ylbenzene-1,2-diamine in the form of a brown solid are isolated. 1H NMR (400 MHz, (CD3)2SO, δ in ppm): 2.78 (m: 4H); 3.68 (m: 4H); 4.25 (broad s: 2H); 4.35 (broad s: 2H); 6.27 (d, J=8 Hz: 1H); 6.31 (d, J=14 Hz: 2H).

reactant | 4-fluoro-5-morpholin-4-yl-2-nitrophenylamine | 35 g | FC1=CC(=C(C=C1N1CCOCC1)N)[N+](=O)[O-] | C10H12FN3O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 618 mL | CO | CH4O
catalyst | palladium-on-charcoal | 3.4 g | [Pd] | Pd
product | 4-fluoro-5-morpholin-4-ylbenzene-1,2-diamine | 30 g | FC=1C=C(C(=CC1N1CCOCC1)N)N | C10H14FN3O
